US08633173B2
N-Methyl-N-[2-({2-[4-(2-pyrrolidin-1-yl-ethoxy)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino}-methyl)-phenyl]-methanesulfonamide was prepared from N-{2-[(2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino)-methyl]-phenyl}-N-methyl-methanesulfonamide (75.0 mg, 0.205 mmol) and 4-(2-pyrrolidin-1-yl-ethoxy)-phenylamine (48.0 mg, 0.233 mmol) with 2,2′-bis-dicyclohexylphosphanyl-biphenyl (23.0 mg, 0.0421 mmol) as the ligand in a manner analogous to Example 2d. Product isolated as a tan foam (0.026 g, 24%). 1H NMR (400 MHz, CDCl3, δ, ppm): 7.79 (d, J=6.7 Hz, 1H), 7.55-7.45 (m, 3H), 7.38-7.28 (m, 3H), 6.92 (d, J=8.9 Hz, 2H), 6.65 (t, J=7.5 Hz, 1H), 6.51 (s, 1H), 6.36 (d, J=7.7 Hz, 1H), 5.21 (t, J=5.7 Hz, 1H), 4.72 (d, J=6.1 Hz, 2H), 4.10 (t, J=6.0 Hz, 2H), 3.31 (s, 3H), 3.00 (s, 3H), 2.90 (t, J=5.9 Hz, 2H), 2.66-2.59 (m, 4H), 1.85-1.77 (m, 4H). MS=536 (MH)+.

reactant | N-{2-[(2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino)-methyl]-phenyl}-N-methyl-methanesulfonamide | 0.205 mmol, 75.0 mg | ClC1=NN2C(C(=CC=C2)NCC2=C(C=CC=C2)N(S(=O)(=O)C)C)=N1 | C15H16ClN5O2S
reactant | 4-(2-pyrrolidin-1-yl-ethoxy)-phenylamine | 0.233 mmol, 48.0 mg | N1(CCCC1)CCOC1=CC=C(C=C1)N | C12H18N2O
reactant | 2,2′-bis-dicyclohexylphosphanyl-biphenyl | 0.0421 mmol, 23.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | N-Methyl-N-[2-({2-[4-(2-pyrrolidin-1-yl-ethoxy)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino}-methyl)-phenyl]-methanesulfonamide | CN(S(=O)(=O)C)C1=C(C=CC=C1)CNC=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C=C2)OCCN2CCCC2 | C27H33N7O3S
